US06815455B1
Synthesis of ethyl 4-(2-benzimidazolylthio)valerate
11 g of 2-mercaptobenzimidazole and 14.6 g of 5-bromovaleric acid were dissolved in 50 ml of ethanol and the mixture was refluxed under heating for 24 hours. After cooling, the mixture was added with wafer and adjusted to pH 8 with aqueous sodium hydroxide. The deposited crystals were collected by filtration and washed with water-containing methanol to obtain 16.9 g of the title compound (yield: 83%).

reactant | 2-mercaptobenzimidazole | 11 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 5-bromovaleric acid | 14.6 g | BrCCCCC(=O)O | C5H9BrO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 4-(2-benzimidazolylthio)valerate | 16.9 g, yield: 83% | N1=C(NC2=C1C=CC=C2)SC(CCC(=O)OCC)C | C14H18N2O2S
